US08258149B2
Berberine hydrochloride (10.0 g, 26.90 mmol), water (40 mL), acetone (10 mL), 50% aqueous sodium hydroxide (15 mL) was introduced into a reaction vessel. The reaction mixture was stirred vigorously for 30 min at room temperature. The resulting precipitate was collected and washed with 80% methanol (2×10 mL) and then dried to afford 1-(9,10-dimethoxy-5,8-dihydro-6H-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinolin-8-yl)-propan-2-one (8.5 g, 80%) as a yellow solid. LC/MS m/e calcd for C23H23NO5 (M+H)+: 394.44, observed: 336.0; 1H NMR (400 MHz, DMSO-d6) δ ppm 2.04 (s, 3 H) 2.31 (dd, J=14.65, 4.80 Hz, 1 H) 2.66-2.75 (m, 1 H) 2.75-2.82 (m, 1 H) 2.94 (dd, J=14.65, 6.57 Hz, 1 H) 3.16-3.25 (m, 1 H) 3.25-3.30 (m, 1 H) 3.77 (d, J=2.02 Hz, 6 H) 5.21 (dd, J=6.32, 4.80 Hz, 1 H) 5.97-6.03 (m, 3 H) 6.72 (d, J=8.34 Hz, 1 H) 6.76 (s, 1 H) 6.87 (d, J=8.34 Hz, 1 H) 7.25 (s, 1 H).

reactant | Berberine hydrochloride | 26.90 mmol, 10.0 g | COC1=C(C2=C[N+]3=C(C=C2C=C1)C4=CC5=C(C=C4CC3)OCO5)OC.[Cl-]
reactant | water | 40 mL | O | H2O
reactant | sodium hydroxide | 15 mL | [OH-].[Na+]
reactant | acetone | 10 mL | CC(=O)C | C3H6O
product | 1-(9,10-dimethoxy-5,8-dihydro-6H-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinolin-8-yl)-propan-2-one | 8.5 g, 80% | COC1=C(C=CC=2C=C3N(CCC4=CC5=C(C=C34)OCO5)C(C12)CC(C)=O)OC | C23H23NO5
